US06114532
4-[(5-(N-carboxymethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-tert.butyloxycarbonyl-benzamidine
Prepared analogously to Example 13 from 4-[(5-(N-ethoxycarbonylmethylquinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-tert.butyloxycarbonyl-benzamidine and sodium hydroxide in ethanol.

reactant | 4-[(5-(N-ethoxycarbonylmethylquinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-tert.butyloxycarbonyl-benzamidine | C(C)OC(=O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=NC(=O)OC(C)(C)C)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C34H36N6O6S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[(5-(N-carboxymethyl-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-N'-tert.butyloxycarbonyl-benzamidine | C(=O)(O)CN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=NC(=O)OC(C)(C)C)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C32H32N6O6S
